US07674804B2
(2-Chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (2.34 g, 6.63 mmol) in MeOH (10 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 253.1 [M+H]+.

reactant | 4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 6.63 mmol, 2.34 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC2=C1CCC2)Cl | C17H25ClN4O2
solvent | MeOH | 10 mL | CO | CH4O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (2-Chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC1=NC2=C(C(=N1)NC1CCNCC1)CCC2 | InChI=1S/C12H17ClN4.2ClH/c13-12-16-10-3-1-2-9(10)11(17-12)15-8-4-6-14-7-5-8;;/h8,14H,1-7H2,(H,15,16,17);2*1H
